US04474786
Preparation of 2-hydroxy-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one
Add 23.1 gm of 2-chloro-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one to 300 ml of methanol containing 30 gm of sodium methoxide. Heat the system in a steel bomb at about 200° C. for 12 hours. Stop the reaction and remove the solvent by stripping. Treat the residue with water and then isolate the title compound.

reactant | 2-chloro-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one | 23.1 gm | ClC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C12H8ClNO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 300 ml, 30 gm | CO | CH4O
product | 2-hydroxy-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one | OC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C12H9NO3
